US07482354B2
Ethyl 8-{[(ethylamino)carbonyl]amino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate [B03-X02-M00(C01)-D01]
To a suspension of 18 mg (0.44 mmol) of sodium hydride 60% in mineral oil (0.37 mmol) in dry dimethylformamide, a solution of 100 mg of ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (0.37 mmol) in 5 mL of the same solvent was added dropwise at 0° C. under stirring. After 5 minutes, 0.070 mL (0.88 mmol) of ethylisocyanate were added to the mixture and the reaction allowed to come to room temperature. After 8 hours the solvent was evaporated under reduced pressure, the residue redissolved with dichloromethane and washed with water. After drying over Na2SO4 the solvent was removed and the product purified by chromatography on a silica gel column (eluant dichloromethane/acetone) leading 64 mg (50% yield) of the title compound.

reactant | sodium hydride | 0.44 mmol, 18 mg | [H-].[Na+]
reactant | ethyl 8-amino-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.37 mmol, 100 mg | NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C13H13N5O2
reactant | ethylisocyanate | 0.88 mmol, 0.070 mL | C(C)N=C=O | C3H5NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 8-{[(ethylamino)carbonyl]amino}-1-methyl-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 64 mg, 50% yield | C(C)NC(=O)NC1=NC=2C3=C(C=CC2C=N1)C(=NN3C)C(=O)OCC | C16H18N6O3
